US05268386
5,7-Dimethoxy-3-methylspiro[2H-1-benzopyran-2,1'-cyclohexan]-4(3H)-one
A solution of 5,7-dimethoxyspiro[2H-1-benzopyran-2,1'-cyclohexan]-4(3H)-one (prepared in Preparation 8) (1.38 g, 5 mmol) in dry tetrahydrofuran (10 ml) is added dropwise at -78° C. to a solution of lithium diisopropylamide (prepared from diisopropylamine (0.77 ml, 7.6 mmol) and 1.3N butyl lithium solution in hexane (3.85 ml, 5.0 mmol)) in tetrahydrofuran. To the mixture is added hexamethyl phosphoric triamide (1.05 ml) and then a solution of methyl iodide (0.78 g, 5.5 mmol) in tetrahydrofuran (1 ml) at -70° C. After the mixture is reacted at -78° to 0° C. for 2.5 hours and then at 0° to 3° C. for 2 hours, an aqueous solution of ammonium chloride is added thereto. The mixture is then extracted with diethyl ether and the organic layer is separated, washed twice with saturated brine, dried and the solvent is removed by distillation. The residue is loaded onto a Lober column and eluted with a mixture of acetonitrile and dichloromethane (1:9) to obtain the title compound as an oil (1.01 g, yield 69.6%).

reactant | 5,7-dimethoxyspiro[2H-1-benzopyran-2,1'-cyclohexan]-4(3H)-one | 5 mmol, 1.38 g | COC1=CC(=CC2=C1C(CC1(CCCCC1)O2)=O)OC | C16H20O4
reactant | lithium diisopropylamide | 7.6 mmol, 1.3N, 0.77 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 5.5 mmol, 0.78 g | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | hexamethyl phosphoric triamide | 1.05 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 5,7-Dimethoxy-3-methylspiro[2H-1-benzopyran-2,1'-cyclohexan]-4(3H)-one | 1.01 g, yield 69.6% | COC1=CC(=CC2=C1C(C(C1(CCCCC1)O2)C)=O)OC | C17H22O4
